US05250517
10.5 g (0.277 mol) of lithium aluminium hydride were suspended in 100 ml of absolute ether and treated while stirring within 10 minutes with 100 ml of absolute tetrahydrofuran. To this stirred suspension was added dropwise within 6-8 hours, while heating to reflux, 46.7 g (0.277 mol) of (+) 2-(2-furyl)-3-methylbutyric acid in 100 ml of absolute tetrahydrofuran. The reaction mixture was cooled and treated slowly with a 3N hydrochloric acid solution. The organic phase was separated, washed with water, dried and evaporated under reduced pressure. The remaining oil was distilled in a high vacuum, to obtain 32 g (75%) of (R)-(+)-2-(2-furyl)-3-methyl-1-butanol as a colorless liquid of 96% purity, boiling point 58°/39 Pa, [α]D20 =+2.5° (c=1%, ethanol).

reactant | lithium aluminium hydride | 0.277 mol, 10.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (+) 2-(2-furyl)-3-methylbutyric acid | 0.277 mol, 46.7 g | O1C(=CC=C1)C(C(=O)O)C(C)C | C9H12O3
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (R)-(+)-2-(2-furyl)-3-methyl-1-butanol | 32 g, 75% | O1C(=CC=C1)[C@@H](CO)C(C)C | C9H14O2
